US04727180
To a solution of methyl 3-bromo-3-methyl-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}propanoate in tetrahydrofuran can be added an equivalent amount of 1,5-diazabicyclo[3.4.0]nonene-5. The resulting reaction mixture can be stirred at elevated temperature until thin layer chromatographic analysis of a reaction sample indicates the reaction to be complete. The solvent can be removed and the residual oil dissolved in ether to obtain an ether solution which can be extracted with 1N hydrochloride acid and then by 2N sodium hydroxide solution. The resulting sodium hydroxide solution can be heated on the steam bath, cooled and made acidic with concentrated hydrochloric acid to obtain a product which can be isolated from the aqueous phase with ether. The resulting ether solution can be dried with anhydrous magnesium sulfate, filtered, and evaporated to give 3-methyl-3-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid.

reactant | methyl 3-bromo-3-methyl-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}propanoate | BrC(C(C(=O)OC)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C14H13BrF6O3
reactant | ether | CCOCC | C4H10O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-methyl-3-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}-2-propenoic acid | CC(=CC(=O)O)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C13H10F6O3
